US03947408
A mixture of 6.44 g. of 7-benzyloxy-1,2,3,5,10,11a- hexahydro-10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one, 200 ml. of ethanol and 1.0 g. of 10% palladium-on-carbon catalyst is shaken in a Parr hydrogenator under about 3 atmospheric of hydrogen pressure until the theoretical amount of hydrogen is absorbed. The catalyst is filtered off and the mother liquor is concentrated to remove the solvent. The residue is purified by partition chromatography on a diatomaceous earth column using a heptane/methyl cellosolve solvent system to yield pure 1,2,3,5,10,11a-hexahydro-7-hydroxy- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one.

reactant | 7-benzyloxy-1,2,3,5,10,11a- hexahydro-10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one | C(C1=CC=CC=C1)OC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C20H22N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,5,10,11a-hexahydro-7-hydroxy- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one | OC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C13H16N2O2
